US05928562
Preparation of 2-Octyloxy-7-(3-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propoxy)fluorene
The title compound was prepared essentially as in Example 1 by combining 2-octyloxy-7-hydroxyfluorene (1.0 g, 3.2 mmol) with a mixture of 3-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propyl chloride and 3-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propyl bromide (total 1.62 g, 3.3 mmol, 80:20 mole ratio). The reaction mixture was quenched by addition of water, and the resulting crude product was recrystallized from ethanol and further purified by Kugelrohr distillation (188° C. at 0.01 torr) to provide a yield of 0.84 g.

reactant | 2-octyloxy-7-hydroxyfluorene | 3.2 mmol, 1.0 g | C(CCCCCCC)OC1=CC=2CC3=CC(=CC=C3C2C=C1)O | C21H26O2
reactant | 3-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propyl chloride | FC(OC(C(OC(C(OC(COCCCCl)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C10H8ClF13O4
reactant | 3-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propyl bromide | 3.3 mmol, 1.62 g | FC(OC(C(OC(C(OC(COCCCBr)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C10H8BrF13O4
product | 2-Octyloxy-7-(3-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propoxy)fluorene | C(CCCCCCC)OC1=CC=2CC3=CC(=CC=C3C2C=C1)OCCCOCC(F)(F)OC(C(OC(C(OC(F)(F)F)(F)F)(F)F)(F)F)(F)F | C31H33F13O6
